8
R0100 1 0 1E+5
L0100 1 0 1.59155077524438E-3
C0100 1 0 1.59155077524438E-11
C0102 1 2 1E-9
M0304 3 4 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0506 5 6 3 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M0207 2 7 3 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0505 5 5 8 8 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0205 2 5 8 8 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
V0400 4 0 0 0 1.5
V0600 6 0 0.1 0 2.5
V0700 7 0 0 0 2.5
V0800 8 0 0 0 5
